US05356897
To a solution of 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole (1.674 g) in ethanol (33 ml) was added O-mesitylsulfonylhydroxylamine (2.362 g). The mixture was stirred at ambient temperature for 30 minutes and to the mixture was added a solution of glyoxal in water (40%, 955 mg). The mixture was refluxed for 4 hours and cooled. The reaction mixture was poured into an aqueous saturated sodium bicarbonate solution and the separated oil was extracted with dichloromethane. The extract was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from ethanol to give 8-(4-fluorophenyl)-7-(pyridin-4-yl)pyrazolo[1,5-b][1,2,4]triazine (63 mg).

reactant | 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole | 1.674 g | NC1=C(C(=NN1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H11FN4
reactant | O-mesitylsulfonylhydroxylamine | 2.362 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 33 ml | C(C)O | C2H6O
solvent | water | 955 mg | O | H2O
product | 8-(4-fluorophenyl)-7-(pyridin-4-yl)pyrazolo[1,5-b][1,2,4]triazine | 63 mg | FC1=CC=C(C=C1)C=1C(=NN2N=CC=NC21)C2=CC=NC=C2 | C16H10FN5
